US07018988B2
(2S,4EZ)-1-acetyl-N-cyclopropyl-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, acetyl chloride, and cyclopropylamine the title compound was obtained in 52% purity by LC/MS. MS(ESI+): m/z=384.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (2S,4EZ)-1-acetyl-N-cyclopropyl-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxamide | C(C)(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)NC1CC1 | C17H19Cl2N3O3
